US04618719
2% triphenylphosphine
traces of diphenylphosphine, docosene, and docosane.

reactant | diphenylphosphine | C1(=CC=CC=C1)PC1=CC=CC=C1 | C12H11P
reactant | docosene | C=CCCCCCCCCCCCCCCCCCCCC | C22H44
reactant | docosane | CCCCCCCCCCCCCCCCCCCCCC | C22H46
product | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
